US07939526B2
Triethyl orthobutyrate (2.2 mL, 14 mmol) was added to a stirred solution of N4-{2-[2-(methylsulfonyl)ethoxy]ethyl}quinoline-3,4-diamine (3.6 g, 12 mmol) in acetonitrile (60 mL). Pyridine hydrochloride (0.3 g) was added and the reaction mixture was heated to reflux with the volatiles being collected in a Dean Stark trap. After 40 minutes analysis by TLC indicated that the starting material was consumed. The reaction mixture was concentrated under reduced pressure to provide 3.7 g of 1-{2-[2-(methylsulfonyl)ethoxy]ethyl}-2-propyl-1H-imidazo[4,5-c]quinoline as a white solid.

reactant | Triethyl orthobutyrate | 14 mmol, 2.2 mL | C(CCC)(OCC)(OCC)OCC | C10H22O3
reactant | N4-{2-[2-(methylsulfonyl)ethoxy]ethyl}quinoline-3,4-diamine | 12 mmol, 3.6 g | CS(=O)(=O)CCOCCNC1=C(C=NC2=CC=CC=C12)N | C14H19N3O3S
reactant | Pyridine hydrochloride | 0.3 g | Cl.N1=CC=CC=C1
solvent | acetonitrile | 60 mL | C(C)#N | C2H3N
product | 1-{2-[2-(methylsulfonyl)ethoxy]ethyl}-2-propyl-1H-imidazo[4,5-c]quinoline | 3.7 g | CS(=O)(=O)CCOCCN1C(=NC=2C=NC=3C=CC=CC3C21)CCC | C18H23N3O3S
